* C:\Users\Elite\Desktop\1\VerilogLab1\LTSpice\mux4to1test.asc
V1 D 0 PULSE(0 1 0 5p 5p 4n 8n)
V2 C 0 PULSE(0 1 0 5p 5p 4n 8n)
V3 B 0 PULSE(0 1 0 5p 5p 4n 8n)
V4 A 0 PULSE(0 1 0 5p 5p 4n 8n)
V5 S1 0 PULSE(0 1 8n 5p 5p 8n 16n)
V6 S2 0 PULSE(0 1 8n 5p 5p 16n 32n)
V7 VDD 0 1
R1 N001 0 100k
C1 N001 0 100f
XX1 N001 A B C D VDD S2 S1 mux4to1

* block symbol definitions
.subckt mux4to1 Y A B C D VDD S2 S1
XX11 S1 S1 N004 VDD nor
XX13 S1 A N001 VDD nor
XX14 B N004 N003 VDD nor
XX19 S1 C N008 VDD nor
XX20 D N004 N010 VDD nor
XX1 N008 N010 N009 VDD nor
XX2 N001 N003 N002 VDD nor
XX3 N002 S2 N005 VDD nor
XX4 N007 N009 N006 VDD nor
XX5 S2 S2 N007 VDD nor
XX6 N005 N006 Y VDD nor
.ends mux4to1

.subckt nor A B Y VDD
M2 Y B 0 0 NMOS l=90n w=200n
M4 Y A 0 0 NMOS l=90n w=200n
M1 VDD A N001 VDD PMOS l=90n w=400n
M3 N001 B Y VDD PMOS l=90n w=400n
.ends nor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Elite\Documents\LTspiceXVII\lib\cmp\standard.mos
.include 90nm_bulk.txt
.tran 0 72n 0 1p
.backanno
.end
